US09238640B2
To a solution of ethyl 4-(4-aminopiperidin-1-yl)benzoate (3.0 g, 12.1 mmol) in CH2Cl2 under nitrogen was added Et3N (2.45 g, 24.2 mmol), followed by benzoyl chloride (1.70 g, 12.1 mmol). The mixture was stirred at room temperature overnight, washed with brine (200 mL), dried over anhydrous MgSO4, filtered, and concentrated. The resulting solids were triturated with hexanes to afford ethyl 4-(4-benzamidopiperidin-1-yl)benzoate as a yellow solid (4.2 g, 100%).

reactant | ethyl 4-(4-aminopiperidin-1-yl)benzoate | 12.1 mmol, 3.0 g | NC1CCN(CC1)C1=CC=C(C(=O)OCC)C=C1 | C14H20N2O2
reactant | Et3N | 24.2 mmol, 2.45 g | CCN(CC)CC | C6H15N
reactant | benzoyl chloride | 12.1 mmol, 1.70 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | ethyl 4-(4-benzamidopiperidin-1-yl)benzoate | 4.2 g, 100% | C(C1=CC=CC=C1)(=O)NC1CCN(CC1)C1=CC=C(C(=O)OCC)C=C1 | C21H24N2O3
